US08871753B2
Step B: tert-Butyl (3-{[(3-aminobenzyl)sulfonyl]amino}phenyl)carbamate
To a solution tert-butyl (3-{[(3-nitrobenzyl)sulfonyl]amino}phenyl)carbamate (1.1 g, 2.7 mmol) in water (2 mL), methanol (100 mL) and acetic acid (4.1 mL) was added iron (0.60 g, 11.0 mmol) powder in one batch. The mixture was stirred at 0° C. for 2 h. The mixture was mixed with celite, filtered, and the cake was washed with EtOAc. The brown filtrate was concentrated and EtOAc and NaHCO3/water were added. The water layer was extracted with EtOAc once more. The organic layers were combined, dried over Na2SO4 and concentrated to give the desired product as a yellow powder (0.9 g, 90%). LCMS for C18H23N3O4S (M-tBu+H)+: m/z=322.0. 1H NMR (400 MHz, DMSO-d6): δ 9.72 (s, 1H), 9.39 (s, 1H), 7.44 (br, 1H), 7.16 (t, J=8.2 Hz, 1H), 7.12 (m, 1H), 6.94 (t, J=7.7 Hz, 1H), 7.79 (dt, J=7.2, 2.1 Hz, 1H), 6.50 (m, 1H), 6.49 (s, 1H), 6.35 (m, 1H).

reactant | tert-butyl (3-{[(3-nitrobenzyl)sulfonyl]amino}phenyl)carbamate | 2.7 mmol, 1.1 g | [N+](=O)([O-])C=1C=C(CS(=O)(=O)NC=2C=C(C=CC2)NC(OC(C)(C)C)=O)C=CC1 | C18H21N3O6S
solvent | water | 2 mL | O | H2O
solvent | methanol | 100 mL | CO | CH4O
solvent | acetic acid | 4.1 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 11.0 mmol, 0.60 g | [Fe] | Fe
product | tert-Butyl (3-{[(3-aminobenzyl)sulfonyl]amino}phenyl)carbamate | 0.9 g, 90% | NC=1C=C(CS(=O)(=O)NC=2C=C(C=CC2)NC(OC(C)(C)C)=O)C=CC1 | C18H23N3O4S
